data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5197,5897,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16](=[O:17])[NH:18][CH3:19])=[N+:20]([CH3:21])[C-:22]([C:23](=[O:24])[O:25][CH3:26])[C:27](=[O:28])[O:29][CH3:30]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16](=[O:17])[NH:18][CH3:19])[N:20]([CH3:21])[C:22]2([C:23](=[O:24])[O:25][CH3:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,39.138512756592704,-12.05172654894588
178,195,[CH3:12][C:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:13]([CH3:12])=[N:14][CH:15]2[C:16]([CH3:17])=[O:18],water,298.15,16.26339868739986,-40.50810047948356
1146,1245,[CH3:14][N-:15][N+:16]#[C:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([Br:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][C:2]1([CH3:3])[c:4]2[c:5]([c:17]([C:18](=[O:19])[O:20][CH3:21])[n:16][n:15]2[CH3:14])[C:6]([Br:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1,water,298.15,13.96595377732286,-79.65855592566066
4168,4771,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[C:12][CH:13]=[O+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:13]([C:12]#[N:11])[O:14][C:15]2([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,6.160761512461535,-45.21544783057554
405,441,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH:6](=[O+:7][N-:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[N:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[O:7][CH:6]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,29.60471312701762,-62.13533497224174
4785,5463,[CH3:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N+:18]([CH3:19])=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:18]([CH3:19])[CH:20]1[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,18.10544416588472,-25.73054287200236
474,519,[CH3:1][O:2][C:3]([F:4])=[C:5]([F:6])[F:7].[CH3:8][O:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[N+:15]([CH3:16])[C-:17]([C:18]#[N:19])[C:20]#[N:21]>>[CH3:1][O:2][C:3]1([F:4])[C:5]([F:6])([F:7])[C:17]([C:18]#[N:19])([C:20]#[N:21])[N:15]([CH3:16])[C:12]1([C:10]([O:9][CH3:8])=[O:11])[C:13]#[N:14],water,298.15,29.041788748351355,-21.61126229013322
4971,5658,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N-:16][O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:16]([CH3:15])[O:17][C:18]2([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,6.287576113644954,-26.69150430134735
1233,1345,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]2([CH3:22])[C:23]([CH3:24])=[O:25],water,298.15,23.35742996093004,-23.93802190386341
129,145,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([F:7])[F:8].[CH3:9][CH:10]=[NH+:11][N-:12][C:13](=[O:14])[NH:15][CH3:16]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([F:7])([F:8])[N:12]([C:13](=[O:14])[NH:15][CH3:16])[NH:11][CH:10]1[CH3:9],water,298.15,31.875968557606893,-27.999870315032148
4595,5240,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[N+:13]([CH3:14])[C-:15]([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:15]([C:16](=[O:17])[NH:18][CH3:19])([C:20](=[O:21])[NH:22][CH3:23])[N:13]([CH3:14])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,43.436837352053054,-9.71536082014944
1258,1374,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([CH3:20])[C:21]#[N:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([F:11])[F:12]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([F:11])([F:12])[C:19]([CH3:20])([C:21]#[N:22])[O:18][C:17]1([C:15]([NH:14][CH3:13])=[O:16])[C:23]([CH3:24])=[O:25],water,298.15,17.031360363134706,-38.06176615724975
